US07893284B2
A solution of (3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-acetic acid ethyl ester (0.92 g, 2 mmol) in 20 ml dry THF was cooled to 0° C. under nitrogen before LiAlH4 (0.15 g, 4 mmol) was added in a portion wise manner. After 6 hours at 0° C., the mixture was quenched with aq. NH4Cl, the organics were extracted with ethylacetate. The organic layer was washed with water, brine, dried over MgSO4 and the solvents were evaporated under vacuum. The crude oil was purified by chromatography (hexane/ethylacetate 15/1 to 6:1) to give 2-(3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-ethanol, 0.75 g (89%), as a white powder, mp=61-62° C.; 1H NMR (CDCl3, 270 MHz): 0.84 (s, 3H, CH3), 1.20-1.66 (m, 9H), 1.82-2.02 (m, 3H), 2.21-2.51 (m, 3H), 2.71 (q, J=7.4 Hz, 2H, CH2), 2.87 (m, 2H, H6), 4.16 (m, 2H, CH2OH), 5.07 (s, 2H, CH2Ph), 5.31 (m, 1H, CHCH2OH), 6.66 (s, 1H, ArH), 7.15 (s, 1H, ArH), 7.30-7.48 (m, 5H, Ph).

reactant | (3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-acetic acid ethyl ester | 2 mmol, 0.92 g | C(C)OC(C=C1CCC2C3CCC=4C=C(C(=CC4C3CCC12C)CC)OCC1=CC=CC=C1)=O | C31H38O3
reactant | LiAlH4 | 4 mmol, 0.15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-ethanol | C(C1=CC=CC=C1)OC=1C(=CC=2C3CCC4(C(CCC4C3CCC2C1)=CCO)C)CC | C29H36O2
